US06911476B2
Preparation of [(2S)-2-(4-bromophenoxy)propyl][(methylethyl)sulfonyl]amine.
To a reaction mixture of (2S)-2-(4-bromophenoxy)propylamine (19.0 g, 71.275 mmoles) and methylene chloride (200.0 ml) at room temperature was added 2N NaOH (150.0 ml) all at once with vigorous stirring for 45 minutes. The organic layer was separated, dried anhydrous magnesium sulfate, filtered, and the filtrate concentrated to an oil (16.22 g). To a solution of this oil in methylene chloride (225.0 ml) at room temperature was then added triethylamine (23.6 ml, 169.23 mmol) and N,N-dimethylaminopyridine (0.43 g) with stirring. The solution was cooled to −20° C. with dry ice/acetone bath, and a solution of isopropylsulfonyl chloride (9.5 ml, 84.62 mmol) dissolved in methylene chloride (25 ml) was added over a period of 30 minutes while maintaining the temperature at −20° C. The reaction was then stirred to room temperature overnight. The reaction was monitored with TLC (1:1 ethylacetate/hexane) until the reaction was complete. The reaction was quenched with 3N HCl solution (100.0 ml), the organic layer separated then dried with anhydrous magnesium sulfate. Subsequent filtration and concentration at reduced pressure afforded the final title compound (23.7 g, 100%) as an oil; 1H nmr (CDCl3) δ 1.25-1.26 (d, 3H, J=6.35 Hz), 1.33-1.35 (d, 6H, J=6.83 Hz), 3.14-3.19 (m, 1H), 3.22-3.26 (m, 1H), 3.34-3.36 (m, 1H), 4.43-4.46 (m, 1H), 4.74-4.76 (m, NH), 6.77-6.79 (d, 2H, J=9.03 Hz), 7.35-7.37 (d, 2H, J=9.03 Hz); 13C nmr (CDCl3) δ 16.91, 48.59, 53.94, 74.13, 113.84, 118.09, 132.72, 156.51).

reactant | (2S)-2-(4-bromophenoxy)propylamine | 71.275 mmoles, 19.0 g | BrC1=CC=C(O[C@H](CN)C)C=C1 | C9H12BrNO
reactant | NaOH | 2N, 150.0 ml | [OH-].[Na+]
reactant | triethylamine | 169.23 mmol, 23.6 ml | C(C)N(CC)CC | C6H15N
reactant | isopropylsulfonyl chloride | 84.62 mmol, 9.5 ml | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200.0 ml | C(Cl)Cl | CH2Cl2
solvent | ethylacetate hexane | C(C)OC(C)=O.CCCCCC
product | [(2S)-2-(4-bromophenoxy)propyl][(methylethyl)sulfonyl]amine | 23.7 g, 100% | BrC1=CC=C(O[C@H](CNS(=O)(=O)C(C)C)C)C=C1 | C12H18BrNO3S
